US06194449B1
2-Amino-3-benzoyl-6-methyl-4,5,6,7-tetrahydrothieno[2 .3-c]pyridine: Compound 17
2-Amino-3-benzoyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine (2 mmol), as prepared in Example 8, and methyl iodide (3 mmol) were dissolved in dry dimethyformamide (20 mL). Finely ground anhydrous potassium carbonate (1.9 g) and sodium iodide (0.2 g) were added to the solution and the resulting mixture is warmed to 65° C. overnight under nitrogen. After this period (TLC control), the reaction mixture was cooled, diluted with water, extracted with diethyl ether (3×50 mL), and dried on sodium sulfate. The crude product was isolated and then purified by column chromatography eluting with ethyl acetate and petroleum ether solutions to give the desired compound.

reactant | 2-Amino-3-benzoyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | 2 mmol | NC1=C(C2=C(CNCC2)S1)C(C1=CC=CC=C1)=O | C14H14N2OS
reactant | methyl iodide | 3 mmol | CI | CH3I
reactant | potassium carbonate | 1.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.2 g | [I-].[Na+]
solvent | dimethyformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-Amino-3-benzoyl-6-methyl-4,5,6,7-tetrahydrothieno[2 .3-c]pyridine | 77% yield | NC1=C(C2=C(CN(CC2)C)S1)C(C1=CC=CC=C1)=O | C15H16N2OS
